US03996268
L-methionine in 3N NaOH is reacted with 0.5 equiv. of phosgene in toluene at about 0° with vigorous stirring. Recrystallization from 15% acetic acid of the product obtained upon acidification of the reaction mixture gives carbonyl-bis (L-methionine) in 30-40% yield, m.p. 167°-180° [α]D25 +4.8 (C, 1 methanol). The carbonyl-bis (L-methionine) is then reacted in dimethylformamide with two equiv. of dicyclohexylcarbodiimide and p-nitrophenol to yield the active ester, carbonyl-bis (L-methionine p-nitrophenyl ester) in 80% yield (after crystallization from tetrahydrofuran-ether), m.p. 183°-140°; [α]D25 = -41° (c, 0.5, dimethylformamide).

reactant | L-methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | phosgene | 0.5 equiv. | C(=O)(Cl)Cl | CCl2O
reactant | methanol | CO | CH4O
reactant | NaOH | 3N | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | carbonyl-bis (L-methionine) | 30-40% yield | C(=O)(N[C@@H](CCSC)C(=O)O)N[C@@H](CCSC)C(=O)O | C11H20N2O5S2
